data/mechanisms/records/IMS8-EQT8.2l.json
{"mechanism_id": "IMS8-EQT8.2l", "species": [{"species_id": "cyclobutanol_radical_cation", "mapped_smiles": "[CH2:1]1[CH:2]([OH+:6])[CH2:3][CH2:4]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "vinyl_alcohol_radical_cation", "mapped_smiles": "[CH2:1]=[CH:2][OH+:6]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethylene", "mapped_smiles": "[CH2:3]=[CH2:4]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["cyclobutanol_radical_cation"]}, {"state_id": "state_products", "species_ids": ["vinyl_alcohol_radical_cation", "ethylene"]}], "steps": [{"step_id": "step_retro_2plus2", "from_state": "state_precursor", "to_state": "state_products", "step_class": "retro_ring_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 4]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 4]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_retro_2plus2", "support_type": "textbook_proposed", "locator": {"page": 167, "equation": "Table 8.2", "figure": null, "panel": null, "section": "8.3 (Two bonds cleaved; OE+. alpha-alpha)"}, "confidence": 0.8, "curator_note": "Table 8.2 (p.167, Two bonds cleaved, OE+. row): two alpha cleavages (alpha-alpha), charge-retention channel A=D+. + B-C. Book draws a 4-fishhook diamond inside the ring (all 4 arcs drawn): the two ring bonds Cd-Ca and Cb-Cc each split, one electron to the forming Ca=Cb pi and one to the forming Cc=Cd pi -- concerted retro-[2+2]. The O+. odd electron is a spectator (unchanged). The book also lists a charge-migration alternative (i-alpha -> A=D + B-C+.) not drawn concretely. Instantiation = cyclobutanol radical cation; no m/z / intensity printed -- m/z curator-computed."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 72.057, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_vinyl_alcohol", "species_id": "vinyl_alcohol_radical_cation", "step_id": "step_retro_2plus2", "observed_mz": 44.0257, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
